US08304557B2
7-(3-nitrophenoxy)[1,2,4]triazolo[1,5-a]pyridin-2-amine
In the same manner as in Example 17-1 and using 4-(3-nitrophenoxy)pyridin-2-amine (250 mg, 1.08 mmol), ethyl isothiocyanatoformate (184 mg, 1.41 mmol), DMSO (5 mL), hydroxylammonium chloride (525 mg, 7.56 mmol), N,N-diisopropylethylamine (940 μL, 5.40 mmol), ethanol (10 mL) and methanol (10 mL) as starting materials, the title compound (113 mg, 39%) was obtained as a white solid.

reactant | 4-(3-nitrophenoxy)pyridin-2-amine | 1.08 mmol, 250 mg | [N+](=O)([O-])C=1C=C(OC2=CC(=NC=C2)N)C=CC1 | C11H9N3O3
reactant | ethyl isothiocyanatoformate | 1.41 mmol, 184 mg | N(=C=S)C(=O)OCC | C4H5NO2S
reactant | hydroxylammonium chloride | 7.56 mmol, 525 mg | [Cl-].O[NH3+]
reactant | N,N-diisopropylethylamine | 5.40 mmol, 940 μL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | methanol | 10 mL | CO | CH4O
solvent | ethanol | 10 mL | C(C)O | C2H6O
solvent | DMSO | 5 mL | CS(=O)C | C2H6OS
product | 7-(3-nitrophenoxy)[1,2,4]triazolo[1,5-a]pyridin-2-amine | 113 mg, 39% | [N+](=O)([O-])C=1C=C(OC2=CC=3N(C=C2)N=C(N3)N)C=CC1 | C12H9N5O3
